US04239766
22.3 g (0.075 mol) of 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol, in the form of the pure diastereomer, were dissolved in 200 ml of tetrahydrofuran and the solution was added dropwise to 2.3 g of 80% pure sodium hydride in 150 ml of tetrahydrofuran at room temperature, while stirring. Thereafter, the mixture was stirred at 50° C. for 12 hours. After cooling, 17 g (0.075 mol) of N-methyl-N-trichloromethylmercaptocarbamoyl fluoride were added dropwise, at room temperature, to the sodium salt thus obtained, whereupon the temperature rose to about 35° C. The mixture was then heated under reflux for 16 hours, left to cool and concentrated by distilling off the solvent. The oily residue was taken up in 500 ml of methylene chloride, washed twice with 1,000 ml of water each time, dried over sodium sulphate and concentrated. The oil which remained was taken up in 300 ml of isopropyl ether, whereupon it crystallized out. 14.5 g (37% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-2-(N-methyl-N-trichloromethylmercapto-carbamoyloxy)-1-(1,2,4-triazol-1-yl)-butane were obtained in the form of the pure diastereomer of melting point 110°-112° C.

reactant | 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol | 0.075 mol, 22.3 g | ClC1=CC=C(OC(C(C(C)(C)C)O)N2N=CN=C2)C=C1 | C14H18ClN3O2
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | N-methyl-N-trichloromethylmercaptocarbamoyl fluoride | 0.075 mol, 17 g | CN(C(=O)F)SC(Cl)(Cl)Cl | C3H3Cl3FNOS
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenoxy)-3,3-dimethyl-2-(N-methyl-N-trichloromethylmercapto-carbamoyloxy)-1-(1,2,4-triazol-1-yl)-butane | 14.5 g, 37% | ClC1=CC=C(OC(C(C(C)(C)C)OC(N(SC(Cl)(Cl)Cl)C)=O)N2N=CN=C2)C=C1 | C17H20Cl4N4O3S
